US09402841B2
Step C: (S)-3-(1-((pyrrolidin-2-ylmethyl)amino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To crude (S)-tert-butyl-2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate (653 mg) suspended in DCM (3 mL) was added TFA (2 mL). The mixture was stirred for 2 hours and then concentrated. The product was purified by preparative HPLC eluting with a gradient of 5-30% ACN in water (acid mode) to give the title compound.

reactant | (S)-tert-butyl-2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate | 653 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C21H26N6O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((pyrrolidin-2-ylmethyl)amino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | N1[C@@H](CCC1)CNC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C16H18N6O
